US05614633
A mixture of 0.58 g of 3,4-epoxy-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran, 0.22 g of 3-hydroxy-1-methyl-1,6-dihydropyridazin-6-one, 0.16 g of pyridine and 5 ml of ethanol was refluxed for 5 hours. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 0.60 g of trans-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-4-[(1,6-dihydro-1-methyl-6-oxo-3-pyridazinyl)oxy]-2H-1-benzopyran-3-ol represented by the following formula having a melting point of 189°-191° C. in Example 20.

reactant | 3,4-epoxy-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran | 0.58 g | O1C2C(OC3=C(C21)C=C(C=C3)C(C(F)(F)F)(F)F)(CF)CF | C13H9F7O2
reactant | 3-hydroxy-1-methyl-1,6-dihydropyridazin-6-one | 0.22 g | OC1=NN(C(C=C1)=O)C | C5H6N2O2
reactant | pyridine | 0.16 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | trans-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-4-[(1,6-dihydro-1-methyl-6-oxo-3-pyridazinyl)oxy]-2H-1-benzopyran-3-ol | 0.60 g | FC(C(F)(F)F)(C=1C=CC2=C([C@H]([C@@H](C(O2)(CF)CF)O)OC2=NN(C(C=C2)=O)C)C1)F | C18H15F7N2O4
